US09376443B2
(S)-6-(Tetrahydrofuran-3-yloxymethyl)pyridine-2-carbonitrile
(S)-2-(Tetrahydrofuran-3-yloxymethyl)pyridine-1-oxide (24.08 g, 0.123 mol, 1 eq) was dissolved in anhydrous DCM (400 mL). N,N-Dimethylcarbamyl chloride (19.89 g, 0.185 mol, 1.5 eq) was added followed by trimethylsilyl cyanide (18.35 g, 0.185 mol, 1.5 eq). The solution was stirred at 40° C. for 24 hours (solution had turned red). The reaction was cooled to room temperature, then 2 M aqueous Na2CO3 solution was added (80 mL) and stirred overnight. The emulsion was filtered off, leaving the white precipitate behind. The layers were separated and the organic layer was evaporated to leave a brown oil. This was dissolved in ethyl acetate (160 mL), 2-M aqueous Na2CO3 solution (160 mL) was added and stirred for 2 hours. The layers were separated and the organic layer was washed with saturated brine (30 mL), dried over Na2SO4 and evaporated to a brown oil; LC-MS Retention time 1.82 min; (M+H)+ 205.

reactant | (S)-2-(Tetrahydrofuran-3-yloxymethyl)pyridine-1-oxide | 0.123 mol, 24.08 g, 1 eq | O1C[C@H](CC1)OCC1=[N+](C=CC=C1)[O-] | C10H13NO3
reactant | N,N-Dimethylcarbamyl chloride | 0.185 mol, 19.89 g, 1.5 eq | CN(C(=O)Cl)C | C3H6ClNO
reactant | trimethylsilyl cyanide | 0.185 mol, 18.35 g, 1.5 eq | C[Si](C)(C)C#N | C4H9NSi
reactant | Na2CO3 | 2 M | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Na2CO3 | 160 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 400 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 160 mL | C(C)(=O)OCC | C4H8O2
product | (S)-6-(Tetrahydrofuran-3-yloxymethyl)pyridine-2-carbonitrile | O1C[C@H](CC1)OCC1=CC=CC(=N1)C#N | C11H12N2O2
